US07994185B2
Step B: 5-Fluoro-N-[3-(2-(1-methylethyl)-5-{2-[(2-methylpropyl)amino]-4-pyrimidinyl}-1,3-thiazol-4-yl)phenyl]-2-(methyloxy)benzenesulfonamide
Following a procedure analogous to the procedure described in Example 18, Step B using N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]phenyl}-5-fluoro-2-(methyloxy)benzenesulfonamide (89 mg, 0.171 mmol) and isobutylamine (0.172 mL, 1.715 mmol) the title compound was obtained as a yellow foam (58 mg, 61% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.27 (s, 1H), 7.92 (d, J=5.1 Hz, 1H), 7.36-7.52 (m, 2H), 7.29 (t, J=5.9 Hz, 1H), 7.09-7.26 (m, 4H), 7.06 (d, J=7.5 Hz, 1H), 5.92 (dd, J=6.6, 0.9 Hz, 1H), 3.79 (s, 3H), 3.15-3.27 (m, 1H), 2.99 (d, J=0.9 Hz, 2H), 1.71-1.87 (m, 1H), 1.31 (d, J=6.9 Hz, 6H), 0.82 (d, J=6.7 Hz, 6H). MS (ESI): 556.0 [M+H]+.

reactant | N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]phenyl}-5-fluoro-2-(methyloxy)benzenesulfonamide | 0.171 mmol, 89 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)OC | C23H20ClFN4O3S2
reactant | isobutylamine | 1.715 mmol, 0.172 mL | C(C(C)C)N | C4H11N
product | 5-Fluoro-N-[3-(2-(1-methylethyl)-5-{2-[(2-methylpropyl)amino]-4-pyrimidinyl}-1,3-thiazol-4-yl)phenyl]-2-(methyloxy)benzenesulfonamide | FC=1C=CC(=C(C1)S(=O)(=O)NC1=CC(=CC=C1)C=1N=C(SC1C1=NC(=NC=C1)NCC(C)C)C(C)C)OC | C27H30FN5O3S2
